US07250439B2
5-(4-Iodo-phenyl)-3-oxo-pentanoic acid tert-butyl ester
t-butylacetoacetate (1.5 mL, 9.2 mmol) was added dropwise over 2 minutes to a stirred suspension of sodium hydride (60%; 400 mg, 10.0 mmol) in tetrahydrofuran at 0° C. under nitrogen. After stirring for 10 minutes n-butyl lithium in hexane (1.6 M; 6.0 mL, 9.6 mmol) was added then stirring continued for a further ten minutes. The resulting solution was treated dropwise with a solution of 4-iodobenzyl bromide (2.97 g, 10.0 mmol) in tetrahydrofuran (4 mL) and then warmed to room temperature. The reaction was stirred for 40 minutes at room temperature and then quenched with 6 M HCl (5 mL). The resulting mixture was extracted with diethyl ether (3×50 mL). The organic phases were combined, washed with brine (50 mL) and dried (MgSO4) then the solvent evaporated under reduced pressure. The residue was purified via flash chromatography on silica gel (1:20 to 1:10 ethyl acetate/cyclohexane) to give the title compound (1.88 g, 54%) as a yellow oil. LC/MS: 3.66 min; z/e 375, calcd (M+1) 375. 1H NMR (400 MHz; CDCl3): 7.6 (2 H), 6.93 (2 H), 3.33 (2 H), 2.85 (4 H), 1.45 (9 H).

reactant | t-butylacetoacetate | 9.2 mmol, 1.5 mL | C(C)(C)(C)OC(CC(=O)C)=O | C8H14O3
reactant | sodium hydride | 10.0 mmol, 400 mg | [H-].[Na+]
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 9.6 mmol, 1.6 M, 6.0 mL | CCCCCC | C6H14
reactant | 4-iodobenzyl bromide | 10.0 mmol, 2.97 g | IC1=CC=C(CBr)C=C1 | C7H6BrI
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 5-(4-Iodo-phenyl)-3-oxo-pentanoic acid tert-butyl ester | 1.88 g, 54% | C(C)(C)(C)OC(CC(CCC1=CC=C(C=C1)I)=O)=O | C15H19IO3
